US07906652B2
Step 12: Ethyl 3-((S)-(4-chlorophenyl){3-[(1S)-1-(3-cyano-5-fluorophenyl)-2-fluoro-2-methyl-propyl]azetidin-1-yl}methyl)benzoate
A mixture of 5.64 g (9.77 mmol) of ethyl 3-[(S)-{3-[(1S)-1-(3-bromo-5-fluorophenyl)-2-fluoro-2-methylpropyl]azetidin-1-yl}(4-chlorophenyl)methyl]benzoate, 700 mg (5.96 mmol) of zinc cyanide, 179 mg (0.195 mmol) of tris(dibenzylideneacetone)dipalladium, and 270 mg (0.489 mmol) of DPPF in 99 mL of DMF and 1 mL of water was degassed with N2 for 1 h at rt. Then it was stirred at 125° C. After 12 h, the reaction mixture was concentrated to remove solvents. The residue was poured into 200 mL of CH2Cl2 and 50 mL of aq NaHCO3 (pH=7-8). The aqueous layer was extracted with CH2Cl2and the combined organic layer was dried over Na2SO4 and concentrated. The residue was purified by silica gel chromatography with hexanes/ethyl acetate to afford the title compound as a white solid; 1H-NMR(CDCl3) δ 1.23 (d, 3H, J1=21.7 Hz), 1.28 (d, 3H, J1=21.7 Hz), 1.40(t, 3H, J=7.1 Hz), 2.29(t, 1H, J=7.5 Hz), 2.85-2.95(m, 2H), 3.05(m, 1H), 3.18(m, 1H), 3.64 (t, 1H, J=6.7 Hz), 4.29(s, 1H), 4.37 (q, 2H, J1=14.2 Hz, J2=7.1 Hz), 7.16 (d, 1H, J=9.3 Hz), 7.23 (d, 1H, J=7.8 Hz), 7.27-7.38(m, 6H), 7.55 (d, 1H, J=7.8 Hz), 7.86 (d, 1H, J=7.7 Hz), 8.0 (s, 1H); Mass Spectrum: m/e=523, (M+1, 35Cl), 525 (M+1, 37Cl).

reactant | ethyl 3-[(S)-{3-[(1S)-1-(3-bromo-5-fluorophenyl)-2-fluoro-2-methylpropyl]azetidin-1-yl}(4-chlorophenyl)methyl]benzoate | 9.77 mmol, 5.64 g | BrC=1C=C(C=C(C1)F)[C@@H](C(C)(C)F)C1CN(C1)[C@H](C=1C=C(C(=O)OCC)C=CC1)C1=CC=C(C=C1)Cl | C29H29BrClF2NO2
reactant | DMF | 99 mL | CN(C)C=O | C3H7NO
solvent | water | 1 mL | O | H2O
catalyst | zinc cyanide | 5.96 mmol, 700 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | tris(dibenzylideneacetone)dipalladium | 0.195 mmol, 179 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | DPPF | 0.489 mmol, 270 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
product | Ethyl 3-((S)-(4-chlorophenyl){3-[(1S)-1-(3-cyano-5-fluorophenyl)-2-fluoro-2-methyl-propyl]azetidin-1-yl}methyl)benzoate | ClC1=CC=C(C=C1)[C@@H](C=1C=C(C(=O)OCC)C=CC1)N1CC(C1)[C@H](C(C)(C)F)C1=CC(=CC(=C1)F)C#N | C30H29ClF2N2O2
